US07368578B2
A mixture of 4-({[2-(chloromethyl)-3-phenyl-1-benzofuran-6-yl]oxy}methyl)-5-methyl-2-phenyl-1,3-oxazole (1.16 g), ethyl 3-hydroxy-1-phenyl-1H-pyrazole-4-carboxylate (0.58 g), potassium carbonate (0.35 g) and N,N-dimethylformamide (30 mL) was stirred at 90° C. for 3 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration, and subjected to silica gel column chromatography to give ethyl 3-({6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-yl}methoxy)-1-phenyl-1H-pyrazole-4-carboxylate as colorless crystals (1.19 g, 76%) from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 143-144° C.

reactant | 4-({[2-(chloromethyl)-3-phenyl-1-benzofuran-6-yl]oxy}methyl)-5-methyl-2-phenyl-1,3-oxazole | 1.16 g | ClCC=1OC2=C(C1C1=CC=CC=C1)C=CC(=C2)OCC=2N=C(OC2C)C2=CC=CC=C2 | C26H20ClNO3
reactant | ethyl 3-hydroxy-1-phenyl-1H-pyrazole-4-carboxylate | 0.58 g | OC1=NN(C=C1C(=O)OCC)C1=CC=CC=C1 | C12H12N2O3
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 3-({6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-yl}methoxy)-1-phenyl-1H-pyrazole-4-carboxylate | 1.19 g, 76% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C(=C(O2)COC2=NN(C=C2C(=O)OCC)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C38H31N3O6
